US05543518
2-(2,4-Dihydroxy-5-hexylphenyl)-4,6-diphenyl-s-triazine
To a 350 mL sulfonation flask equipped with a mechanical stirrer, condenser and a nitrogen atmosphere are charged 21.4 g (80 mmol) of 2-chloro-4,6-diphenyl-s-triazine, and 100 mL of xylene (mixture of isomers). To the beige suspension are added 11.3 g (85 mmol) of aluminum chloride in one portion. The mixture is warmed to ca. 80° C. for 45 minutes. 18.8 g (96 mmol) of 4-hexylresorcinol are then added in five portions over 40 minutes to the now homogeneous solution. The reaction mixture is heated at 90° C. for 24 hours. After cooling to room temperature, the contents of the flask are poured into 100 mL of 12% aqueous hydrochloric acid. The precipitate formed is removed by filtration, washed to pH 7 with water, rinsed with methanol and dried at 70° C. under vacuum. The title compound is obtained as a crude orange product (29.2 g) and melts at 209°-213° C. It can be used without further purification.

reactant | 2-chloro-4,6-diphenyl-s-triazine | 80 mmol, 21.4 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
reactant | aluminum chloride | 85 mmol, 11.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-hexylresorcinol | 96 mmol, 18.8 g | C(CCCCC)C1=C(C=C(O)C=C1)O | C12H18O2
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2,4-Dihydroxy-5-hexylphenyl)-4,6-diphenyl-s-triazine | OC1=C(C=C(C(=C1)O)CCCCCC)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H27N3O2
